US04267179
A mixture of 3.4 parts of N-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}hydrazinecarboxamide, 3 parts of methanimidamide acetate and 10 parts of dimethyl sulfoxide is stirred and heated for 2 hours at 100° C. The reaction mixture is cooled and poured onto a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The precipitated product is filtered off and crystallized from N,N-dimethylformamide (activated charcoal), yielding 1 part (28%) of 2,4-dihydro-4-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-3H-1,2,4-triazol-3-one; mp.+300° C.

reactant | N-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}hydrazinecarboxamide | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)NN | C18H23N5O2
reactant | methanimidamide acetate | C(C)(=O)O.C(N)=N
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 2,4-dihydro-4-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-3H-1,2,4-triazol-3-one | 28% | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O | C19H21N5O2
